US08377942B2
Sodium acetate (262 mg) is added to a solution of hydroxylamine hydrochloride (193 mg) and 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde (455 mg) in THF (16 ml), water (2 ml) and DMSO (2 ml). After 5 hours at room temperature, the reaction is quenched with water and ethyl acetate. The organic phase is separated and the water phase is extracted with ethyl acetate. The combined organic phases are extracted with water and with a saturated aqueous solution of NaCl, dried over Na2SO4 and concentrated in vacuo to yield 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde oxime. The crude product obtained (390 mg, beige crystals) is used without further purification. MS (HPLC/MS): 239 (MH+). Retention time 2.76 min.

reactant | Sodium acetate | 262 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 193 mg | Cl.NO
reactant | 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde | 455 mg | N1(N=CN=C1)C1=CC=C(C2=CC=CC=C12)C=O | C13H9N3O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde oxime | N1(N=CN=C1)C1=CC=C(C2=CC=CC=C12)C=NO | C13H10N4O
